US06979741B2
1′-(1,2,3,4-Tetrahydro-anthracene-9-carbonyl)-[1,4′]bipiperidinyl-3-carboxylic acid diethylamide
1′-(Anthracene-9-carbonyl)-5,6,1′,2′,3′,4′,5′,6′-octahydro-4H-[1,4′]bipyridinyl-3-carboxylic acid diethylamide (0.033 mmol, 15.5 mg) was dissolved in methanol (˜20 mL), 10% palladium on carbon (10% w/w) (30 mg) was added and the suspension was shaken under a hydrogen atmosphere (45 psi) for 42 h at room temperature in a Parr shaker. The catalyst was filtered off, the solvent evaporated and the residue was purified by chromatography on silica gel eluting with a 1%-5% methanol-dichloromethane gradient to give the title compound (5.3 mg, 34%).

reactant | 1′-(Anthracene-9-carbonyl)-5,6,1′,2′,3′,4′,5′,6′-octahydro-4H-[1,4′]bipyridinyl-3-carboxylic acid diethylamide | 0.033 mmol, 15.5 mg | C(C)N(C(=O)C1=CN(CCC1)C1CCN(CC1)C(=O)C=1C2=CC=CC=C2C=C2C=CC=CC12)CC | C30H35N3O2
solvent | methanol | ˜20 mL | CO | CH4O
catalyst | palladium on carbon | 30 mg | [Pd] | Pd
product | 1′-(1,2,3,4-Tetrahydro-anthracene-9-carbonyl)-[1,4′]bipiperidinyl-3-carboxylic acid diethylamide | 5.3 mg, 34% | C(C)N(C(=O)C1CN(CCC1)C1CCN(CC1)C(=O)C=1C2=CC=CC=C2C=C2CCCCC12)CC | C30H41N3O2
